US05242912
2,3,4,5-Tetrahydro-1H-1-benzazepine-7,9-di-carboxylic acid
7-Cyano-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid benzyl ester (3.30 g) and sodium hydroxide (2 g) in a mixed solution of water-ethanol (1:1, 60 ml) was refluxed for 8 hours. After cooled, water (100 ml) was added to the reaction mixture, which was then rendered to have pH 3 with concentrated hydrochloric acid. The deposited crystal was collected by filtration, washed with water and dried to give the intended compound 1.84 g (85.0%), which was then recrystallized from ethanol to give slightly yellow crystal. M.P.: 287°-288° C.

reactant | 7-Cyano-2,3,4,5-tetrahydro-1H-1-benzazepine-9-carboxylic acid benzyl ester | 3.30 g | C(C1=CC=CC=C1)OC(=O)C1=CC(=CC=2CCCCNC21)C#N | C19H18N2O2
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | water ethanol | 60 ml | O.C(C)O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 2,3,4,5-Tetrahydro-1H-1-benzazepine-7,9-di-carboxylic acid | 1.84 g, 85.0% | N1CCCCC2=C1C(=CC(=C2)C(=O)O)C(=O)O | C12H13NO4
